US09085555B2
C. (3-Acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid
To a solution of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid tert-butyl ester (680 mg, 1.90 mmol) in CH2Cl2 (10 mL) was added TFA (1.47 mL, 19.0 mmol), and stirring was continued at RT overnight. The reaction mixture was then diluted with CH2Cl2 and MeOH, and volatiles were evaporated under reduced pressure. The residue was taken up in MeOH and then evaporated again. The crude material was taken up in 1M aqueous NaOH solution (5 mL), and the water layer was washed with CH2Cl2 and subsequently acidified to pH=1 by addition of a 6M HCl solution. The precipitate was filtered and dried at 50° C. in vacuo for 1 h to afford the title compound as a off-white solid: MS: 302.0 [M+H]+; tR (HPLC conditions c): 4.40 min. The material thus obtained was used directly in the next step without further purification.

reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid tert-butyl ester | 1.90 mmol, 680 mg | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)OC(F)(F)F)C(C)=O)=O | C17H18F3NO4
reactant | TFA | 19.0 mmol, 1.47 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (3-Acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
